US06034099
From the reaction of N-tert.-butyl-4-hydrazinobenzenesulfonamide and ethylbutyrylacetate, N-tert.-Butyl-4-(4,5-dihydro-3-propyl-5-oxo-1H-pyrazol-1-yl)-benzenesulfonamide is obtained. Subsequent reaction with 2-ethoxyaniline yields N-tert-butyl-4-(4-(2-ethoxyanilinomethylen)-4,5-dihydro-3-propyl-5-oxo-1H-pyrazol-1-yl)-benzenesulfonamide, Mp: 254° C.

reactant | N-tert.-butyl-4-hydrazinobenzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)NN | C10H17N3O2S
reactant | ethylbutyrylacetate | C(C)CCCC(=O)CC(=O)[O-]
product | N-tert.-Butyl-4-(4,5-dihydro-3-propyl-5-oxo-1H-pyrazol-1-yl)-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)N1N=C(CC1=O)CCC | C16H23N3O3S
